US04264605
6-(4-CHLOROPHENYLTHIO)3-NITROPYRIDINE
6-Chloro-3-nitropyridine (4.0 grams) and 4-chlorothiophenol (3.7 grams) were mixed in 100 ml. of dry DMF and lithium hydroxide (1.2 grams) added portionwise. After the reaction mixture had stirred for about 5 minutes, it darkened and became warm. It was allowed to stir with a drying tube for 4 hours, poured over ice water and the product separated by filtration. It was crystallized from ethyl acetate-ethanol, yield: 5.0 grams, m.p. 134°-136° C.

reactant | 6-Chloro-3-nitropyridine | 4.0 grams | ClC1=CC=C(C=N1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 4-chlorothiophenol | 3.7 grams | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | lithium hydroxide | 1.2 grams | [OH-].[Li+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-(4-CHLOROPHENYLTHIO)3-NITROPYRIDINE | ClC1=CC=C(C=C1)SC1=CC=C(C=N1)[N+](=O)[O-] | C11H7ClN2O2S
